US08445509B2
Production of 1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
A mixture of 2-cyano-N-(3,4-difluorophenyl)acetamide (6.0 g, 30.6 mmol), (3E)-4-methoxybut-3-en-2-one (4.29 g, 42.8 mmol) and 2-(2-methoxyethoxy)ethanol (60 mL) was stirred at 90° C. for 20 min. 1,4-Diazabicyclo[2.2.2]octane (3.77 g, 33.6 mmol) was added, and the mixture was stirred at 125° C. for 5 hr. After cooling to room temperature, the mixture was adjusted to pH 5 with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate/hexane (=1/1) and collected by filtration to give the title compound (3.69 g, 49%) as a pale-yellow solid.

reactant | 2-cyano-N-(3,4-difluorophenyl)acetamide | 30.6 mmol, 6.0 g | C(#N)CC(=O)NC1=CC(=C(C=C1)F)F | C9H6F2N2O
reactant | (3E)-4-methoxybut-3-en-2-one | 42.8 mmol, 4.29 g | CO/C=C/C(C)=O | C5H8O2
reactant | 1,4-Diazabicyclo[2.2.2]octane | 33.6 mmol, 3.77 g | N12CCN(CC1)CC2 | C6H12N2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | 2-(2-methoxyethoxy)ethanol | 60 mL | COCCOCCO | C5H12O3
product | 1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 3.69 g, 49% | FC=1C=C(C=CC1F)N1C(C(=CC=C1C)C#N)=O | C13H8F2N2O
